US05457134
Synthesis of 7,8,8-trifluoro-7-octenoic acid (Compound 84)
A solution of 4-bromobutyric acid (8.35 g, 0.05 mole) in anhydrous THF (100 mL) is treated dropwise with methyl magnesium chloride (0.051 mole, 17 mL of 3M solution in THF) at -25° C. with stirring in 15 min. The solution is stirred for an additional 15 min at 0° C. and treated with dilithium tetrachlorocuprate (0.002 mole, 20 mL of 0.1M solution in THF) followed by 3,4,4-trifluoro-3-butenyl magnesium bromide (0.0565 mole, prepared separately from 3,4,4-trifluoro-3-butenyl bromide and magnesium turnings in THF). The mixture is stirred at 0° C. for 2 h and at room temperature for overnight. The solution is then poured in 400 mL of ether and 150 mL of 10% aqueous sulfuric acid. The ether layer is extracted with 10% NaOH (2×50 mL). The aqueous layer is washed with ether, acidified with conc. HCl, and extracted with ether (3× 100 mL). The ether extract is dried, concentrated, and the residue distilled under vacuum to give 4.1 g of the desired product as a colorless liquid, a 42% yield. b.p. 125°-127° C./10 Torr.

reactant | 4-bromobutyric acid | 0.05 mole, 8.35 g | BrCCCC(=O)O | C4H7BrO2
reactant | methyl magnesium chloride | 0.051 mole, 3M, 17 mL | C[Mg]Cl
reactant | 3,4,4-trifluoro-3-butenyl magnesium bromide | FC(CC[Mg]Br)=C(F)F
reactant | 3,4,4-trifluoro-3-butenyl bromide | FC(CCBr)=C(F)F | C4H4BrF3
reactant | magnesium | [Mg] | Mg
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ether | 400 mL | CCOCC | C4H10O
solvent | sulfuric acid | 150 mL | S(O)(O)(=O)=O | H2O4S
catalyst | dilithium tetrachlorocuprate | 0.002 mole, 0.1M, 20 mL | [Li+].[Li+].[Cl-].[Cl-].[Cl-].[Cl-].[Cu+2]
product | 7,8,8-trifluoro-7-octenoic acid | 4.1 g, 42% yield | FC(CCCCCC(=O)O)=C(F)F | C8H11F3O2
